US04089976
N-Methyl-1,2,3,4-tetrahydro-1-naphthylamine is stirred with acetic anhydride to afford N-acetyl-N-methyl-1,2,3,4-tetrahydro-1-naphthylamine, which is oxidized to N-acetyl-N-methyl-1,2,3,4-tetrahydro-4-oxo-1-naphthylamine by the method of Example 1.

reactant | N-Methyl-1,2,3,4-tetrahydro-1-naphthylamine | CNC1CCCC2=CC=CC=C12 | C11H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-acetyl-N-methyl-1,2,3,4-tetrahydro-1-naphthylamine | C(C)(=O)N(C)C1CCCC2=CC=CC=C12 | C13H17NO
